US07956077B2
tert-Butyl 2-((1R,3S)-3-hydroxycyclohexylmethoxy)-2-methylpropionate
29 g of tert-butyl 2-methyl-2-[(1R,3S)-3-(tetrahydropyran-2-yloxy)cyclohexylmethoxy]-propionate are dissolved in 150 ml of isopropanol, and 2.3 g of toluenesulfonic acid monohydrate are added. After the toluenesulfonic acid has completely dissolved, the solution is left to stand for 4 days and then mixed with saturated sodium bicarbonate solution and partly concentrated. The residue is taken up MTBE/water, the phases are separated, the aqueous phase is extracted with MTBE, and the combined organic phases are dried over magnesium sulfate and concentrated. The residue is chromatographed on silica gel with heptane/ethyl acetate 3:1, resulting in 13.8 g of tert-butyl 2-((1R,3S)-3-hydroxycyclohexylmethoxy)-2-methylpropionate as yellow oil.

reactant | tert-butyl 2-methyl-2-[(1R,3S)-3-(tetrahydropyran-2-yloxy)cyclohexylmethoxy]-propionate | 29 g | CC(C(=O)OC(C)(C)C)(C)OC[C@H]1C[C@H](CCC1)OC1OCCCC1 | C20H36O5
reactant | toluenesulfonic acid monohydrate | 2.3 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | tert-Butyl 2-((1R,3S)-3-hydroxycyclohexylmethoxy)-2-methylpropionate | O[C@@H]1C[C@@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C15H28O4
